US06166010
A mixture of 5.0 g (14.4 mmol) of N-(2,6-difluorobenzoyl)-3-amino-3-(4-tert-butylphenyl)-1-propanol, 3.2 g (14.4 mmol) of phosphorus pentasulfide and 30 ml of toluene is heated under reflux for 6 hours. The mixture is allowed to cool, 10 ml of 20% strength aqueous sodium hydroxide solution are added and the mixture is heated under reflux for 30 minutes. After customary working up, the crude product is purified by column chromatography on silica gel (mobile phase n-hexane/ethyl acetate 8/2). 2.7 g (54.3%) of 2-(2,6-difluorophenyl)-4-(4-tert-butylphenyl)-5,6-dihydro-(4H)1,3-thiazine of melting point 91.0-91.5° C. are obtained.

reactant | N-(2,6-difluorobenzoyl)-3-amino-3-(4-tert-butylphenyl)-1-propanol | 14.4 mmol, 5.0 g | FC1=C(C(=O)NC(CCO)C2=CC=C(C=C2)C(C)(C)C)C(=CC=C1)F | C20H23F2NO2
reactant | phosphorus pentasulfide | 14.4 mmol, 3.2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-difluorophenyl)-4-(4-tert-butylphenyl)-5,6-dihydro-(4H)1,3-thiazine | 2.7 g, 54.3% | FC1=C(C(=CC=C1)F)C=1SCCC(N1)C1=CC=C(C=C1)C(C)(C)C | C20H21F2NS
